US07919519B2
To a solution of 3-fluoro-4-bromobenzaldehyde (20.0 g, 98.5 mmol) in dry EtOH (120 mL) was added acetyl chloride (2.04 mL, 29.6 mmol) followed by the addition of triethyl orthoformate (6.55 mL, 39.4 mmol) and the contents were heated to 70° C. for 3 h. The contents were cooled to room temperature and shifted to a rotary evaporator and subjected to reduced pressure (280 mm Hg) with bath temperature 65° C. for 45 min. The pressure was further lowered to remove all the solvent. To this mixture, fresh Ethanol (60 mL), acetyl chloride (1.5 mL), triethyl orthoformate (5.0 mL) and heated to 70° C. for 2 h. The solvent was removed under the reduced pressure and diluted with EtOAc (200 mL), washed with saturated sodium bicarbonate (3×100 mL), brine and dried over anhydrous sodium sulfate. The solvent was evaporated and the residue purified by silica gel column (basified with 5% Et3N, eluent: EtOAc/hexanes, 1/20) to afford 1-bromo-4-(diethoxymethyl)-2-fluorobenzene as a colorless oil. 1H NMR (400 MHz, CDCl3) δ ppm 8.03 (t, J=8.1 Hz, 1H), 7.36-7.33 (m, 2H), 5.54 (s, 1H), 3.63-3.52 (m, 4H), 1.25 (m, 6H).

reactant | 3-fluoro-4-bromobenzaldehyde | 98.5 mmol, 20.0 g | FC=1C=C(C=O)C=CC1Br | C7H4BrFO
reactant | acetyl chloride | 29.6 mmol, 2.04 mL | C(C)(=O)Cl | C2H3ClO
reactant | triethyl orthoformate | 39.4 mmol, 6.55 mL | C(OCC)(OCC)OCC | C7H16O3
solvent | EtOH | 120 mL | CCO | C2H6O
product | 1-bromo-4-(diethoxymethyl)-2-fluorobenzene | BrC1=C(C=C(C=C1)C(OCC)OCC)F | C11H14BrFO2
